US08278442B2
Preparation 16: 4-(4-Formylisoquinolin-1-yloxy)benzamide
To a solution of 4-hydroxybenzamide (0.96 g, 7.0 mmol) in DMF (15 mL) at rt was added sodium hydride (0.28 g, 7.0 mmol). After 1 h, 1-chloro-isoquinoline-4-carbaldehyde (WO01/53274, 1.34 g, 7.0 mmol) was added and the reaction heated at 120° C. for 16 h. The solvent was removed in vacuo and the residue washed with water (100 mL), ether (50 mL) and MeCN (50 mL) to give the title compound: RT=3.13 min; m/z (ES+)=292.9 [M+H]+.

reactant | 4-hydroxybenzamide | 7.0 mmol, 0.96 g | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | sodium hydride | 7.0 mmol, 0.28 g | [H-].[Na+]
reactant | 1-chloro-isoquinoline-4-carbaldehyde | 7.0 mmol, 1.34 g | ClC1=NC=C(C2=CC=CC=C12)C=O | C10H6ClNO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(4-Formylisoquinolin-1-yloxy)benzamide | C(=O)C1=CN=C(C2=CC=CC=C12)OC1=CC=C(C(=O)N)C=C1 | C17H12N2O3
